US09289419B2
Synthesis of (R)-4-((tert-butoxycarbonyl)amino)-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carbonyl)piperidine-4-carboxylic acid
LiOH.H2O (43 mg, 1 mmol) in water (2 mL) was added to a stirred solution of (R)-methyl 4-((tert-butoxycarbonyl)amino)-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carbonyl)piperidine-4-carboxylate (120 mg, 0.2 mmol) in THF (6 mL), MeOH (2 mL) and water (2 mL) at 20-35° C. The reaction mixture was stirred for 6 h; thereafter it was concentrated under reduced pressure to afford a crude product. The crude product thus obtained was diluted with cold water, acidified with 2N aqueous HCl solution, extracted with ethyl acetate, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford 100 mg of the title compound as a pale green solid. MS (ESI): m/z 570.2 (M+H).

reactant | LiOH.H2O | 1 mmol, 43 mg | O[Li].O
reactant | (R)-methyl 4-((tert-butoxycarbonyl)amino)-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carbonyl)piperidine-4-carboxylate | 0.2 mmol, 120 mg | C(C)(C)(C)OC(=O)NC1(CCN(CC1)C(=O)C=1C=NN2C1C=C(C=C2)N2[C@H](CCC2)C2=C(C=CC(=C2)F)F)C(=O)OC | C30H35F2N5O5
reactant | HCl | 2N | Cl | ClH
solvent | water | 2 mL | O | H2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | (R)-4-((tert-butoxycarbonyl)amino)-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carbonyl)piperidine-4-carboxylic acid | 100 mg | C(C)(C)(C)OC(=O)NC1(CCN(CC1)C(=O)C=1C=NN2C1C=C(C=C2)N2[C@H](CCC2)C2=C(C=CC(=C2)F)F)C(=O)O | C29H33F2N5O5
